US06838463B2
To 4 ml of dimethylsulfoxide were added 365 mg of 4-chloro-6-(2-butynyloxy)pyrimidine, 332 mg of potassium carbonate, and 591 mg of isopropylamine, followed by stirring at 70° C. for 6 hours. The reaction mixture was then left for cooling to room temperature, diluted with tert-butyl methyl ether, and washed twice with an aqueous sodium chloride solution. The organic layer was dried over anhydrous magnesium sulfate and concentrated. The residue was subjected to silica gel thin layer chromatography to give 339 mg of 4-(2-butynyloxy)-6-(isopropylamino)pyrimidine (the present compound (106)).

reactant | dimethylsulfoxide | 4 ml | CS(=O)C | C2H6OS
reactant | 4-chloro-6-(2-butynyloxy)pyrimidine | 365 mg | ClC1=NC=NC(=C1)OCC#CC | C8H7ClN2O
reactant | potassium carbonate | 332 mg | C([O-])([O-])=O.[K+].[K+]
reactant | isopropylamine | 591 mg | C(C)(C)N | C3H9N
solvent | tert-butyl methyl ether | COC(C)(C)C | C5H12O
product | 4-(2-butynyloxy)-6-(isopropylamino)pyrimidine | 339 mg | C(C#CC)OC1=NC=NC(=C1)NC(C)C | C11H15N3O
